US08222248B2
To a solution of 3,5-dichlorophenol (10.0 g, 61.3 mmol) in DMF (120 mL) at 0° C. was added 9.19 g (135 mmol) of imidazole and the dark yellow solution was allowed to stir at 0° C. for 10 min. To this was added TBDMS-Cl (10.18 g, 67.5 mmol) and the solution went from pale yellow to clear in 1 min. The solution was allowed to stir from 0° C. to ambient temperature over 18 h. The mixture was cooled to 0° C. then water (120 mL) was added and stirred for 10 min. The mixture was extracted with EtOAc, washed with water, brine, and dried with Na2SO4. The solvent was removed under reduced pressure and the residue was purified on silica gel using EtOAc/heptane (0 to 1:9) as eluent to give 4-(tert-butyldimethylsilanyloxy)-2,6-dichlorobenzaldehyde as a clear liquid. 1H NMR (DMSO-d6, 400 MHz): δ 6.99 (t, J=1.83 Hz, 1H), 6.70 (d, J=1.89 Hz, 2H), 0.73 (s, 9H), 0.00 (s, 6H).

reactant | 3,5-dichlorophenol | 61.3 mmol, 10.0 g | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | imidazole | 135 mmol, 9.19 g | N1C=NC=C1 | C3H4N2
reactant | TBDMS-Cl | 67.5 mmol, 10.18 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | 120 mL | O | H2O
reactant | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 4-(tert-butyldimethylsilanyloxy)-2,6-dichlorobenzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=O)C(=C1)Cl)Cl | C13H18Cl2O2Si
